US08487108B2
The (S)-2-amino-3-cyclohexyl-2-methylpropanoic acid was dissolved in 1 M NaOH (50 mL) and THF (30 mL), to this stirred solution was added Boc2O (1.60 g, 7.33 mmol), 2 h later another portion of Boc2O (3.20 g, 14.66 mmol) was added. The reaction was stirred for another 12 h and extracted with hexane to remove excess Boc2O, the separated aqueous phase was acidified with citric acid and extracted with EtOAc two times. The combined organic phases was washed with brine, and dried over Na2SO4, filtered, and evaporated to give (S)-2-(tert-butoxycarbonylamino)-3-cyclohexyl-2-methylpropanoic acid (1.99 g, 100%). MS ESI +ve m/z 186 (M+H).

reactant | (S)-2-amino-3-cyclohexyl-2-methylpropanoic acid | N[C@](C(=O)O)(CC1CCCCC1)C | C10H19NO2
reactant | Boc2O | 7.33 mmol, 1.60 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | Boc2O | 14.66 mmol, 3.20 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | NaOH | 1 M, 50 mL | [OH-].[Na+]
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (S)-2-(tert-butoxycarbonylamino)-3-cyclohexyl-2-methylpropanoic acid | 1.99 g, 100% | C(C)(C)(C)OC(=O)N[C@](C(=O)O)(CC1CCCCC1)C | C15H27NO4
